US06300363B1
3-(2-Acetoxyisobutyrylamino)-6-chloro-2-(4-chloropyridine-2-carbonyl)indole
The title compound was prepared according to the procedure described in Example 19 employing 3-amino-6-chloro-2-(4-chloropyridine-2-carbonyl)indole (Exampe 68) and 2-acetoxyisobutyryl chloride. m.p.: 228-229° C. (recrystallized from ethyl acetate) IR(KBr)ν: 3500, 3250, 1740, 1710, 1620, 1600, 1570, 1540, 1480, 1350, 1230, 1180, 1150, 740 cm−1.

reactant | 3-amino-6-chloro-2-(4-chloropyridine-2-carbonyl)indole | NC1=C(NC2=CC(=CC=C12)Cl)C(=O)C1=NC=CC(=C1)Cl | C14H9Cl2N3O
reactant | 2-acetoxyisobutyryl chloride | C(C)(=O)OC(C(=O)Cl)(C)C | C6H9ClO3
product | 3-(2-Acetoxyisobutyrylamino)-6-chloro-2-(4-chloropyridine-2-carbonyl)indole | C(C)(=O)OC(C(=O)NC1=C(NC2=CC(=CC=C12)Cl)C(=O)C1=NC=CC(=C1)Cl)(C)C | C20H17Cl2N3O4
